US06316445B1
Alternately, combine (S)-benzyl-2-oxazolidinone (25 g, 140 mmol) and tetrahydrofuran (250 ml). Add triphenylmethane (30 mg) as an indicator. Cool to about −40° C. Add n-butyl lithium (about 56 ml, 1 M in hexane, 140 mmol) until an orange color persists. After 30 minutes, cool in a dry-ice/acetone bath the a solution of 3,4-dichlorophenylacetic acid trimethylacetyl ester as obtained in Preparation 3 and add by cannula the solution of lithio (S)-benzyl-2-oxazolidinone obtained above. When the addition is complete warm to ambient temperature. After 18 hours, partition the reaction mixture between diethyl ether and a saturated aqueous sodium bicarbonate solution. Separate the layers and dry the organic layer over MgSO4, filter, and evaporate in vacuo to give a residue. Chromatograph the residue on silica gel eluting sequentially is with 5% ethyl acetate/hexane and 10% ethyl acetate/hexane to give (S)-4-benzyl-3-(3,4-dichlorophenyl)acetyl-2-oxazolidinone.

reactant | (S)-benzyl-2-oxazolidinone | 140 mmol, 25 g | C1COC(=O)N1CC2=CC=CC=C2 | C10H11NO2
reactant | triphenylmethane | 30 mg | C1(=CC=CC=C1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C19H16
reactant | n-butyl lithium | 140 mmol, 1 M, about 56 ml | C(CCC)[Li]
reactant | 3,4-dichlorophenylacetic acid trimethylacetyl ester | CC(C(=O)OC(CC1=CC(=C(C=C1)Cl)Cl)=O)(C)C | C13H14Cl2O3
reactant | lithio (S)-benzyl-2-oxazolidinone | [Li][C@@H]1N(C(OC1)=O)CC1=CC=CC=C1
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | (S)-4-benzyl-3-(3,4-dichlorophenyl)acetyl-2-oxazolidinone | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)C(CC1=CC(=C(C=C1)Cl)Cl)=O | C18H15Cl2NO3
